US07652049B2
Ethylmagnesium bromide (1.63 mL, 1M in THF, 1.63 mmol) was added dropwise to a stirred solution of 1-iodo-3,5-bis(trifluoromethyl)benzene (608 mg, 317 μL, 1.79 mmol) in dry THF (1 mL) at room temperature under N2 and the reaction was stirred for 30 min. The resulting solution was added to a stirred solution of benzyl (1,1-dimethyl-2-oxoethyl)carbamate (163.5 mg, 0.739 mmol) in dry THF (1 mL) at −20° C. and the reaction was allowed to warm to room temperature over 3 h. Saturated NH4Cl (10 mL) and water (10 mL) were added and the mixture was extracted with EtOAc (3×20 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 25×160 mm, 0-40% EtOAc in hexanes gradient) to afford benzyl {2-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxy-1,1-dimethylethyl}carbamate. Rf=0.40 (20% EtOAc in hexanes). LCMS calc.=436.1; found=436.0 (M+1)+. 1H NMR (600 MHz, CDCl3) δ 7.80 (s, 1H), 7.77 (s, 2H), 7.39-7.33 (m, 5H), 5.12-5.08 (m, 2H), 1.36 (s, 1H), 4.90 (d, J=4.4 Hz, 1H), 4.81 (s, 1H), 1.36 (s, 3H), 1.23 (s, 3H).

reactant | Ethylmagnesium bromide | 1.63 mmol, 1M, 1.63 mL | C(C)[Mg]Br
reactant | 1-iodo-3,5-bis(trifluoromethyl)benzene | 1.79 mmol, 317 μL, 608 mg | IC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C8H3F6I
reactant | benzyl (1,1-dimethyl-2-oxoethyl)carbamate | 0.739 mmol, 163.5 mg | CC(C=O)(C)NC(OCC1=CC=CC=C1)=O | C12H15NO3
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | benzyl {2-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxy-1,1-dimethylethyl}carbamate | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(C)(C)NC(OCC1=CC=CC=C1)=O)O)(F)F | C20H19F6NO3
